US08957080B2
To a suspension of LiAlH4 (760 mg, 20 mmol, 1.0 equiv) in THF (50 mL) was added ethyl 2-(tert-butoxycarbonyl(ethyl)amino)-2-methylpropanoate (5.18 g, 20 mmol, 1 equiv) at 0° C. under N2. The mixture was stirred for 4 h at 0° C. It was quenched with ice/water at 0° C., then extracted with ethyl acetate (50 mL×3). The organic layers were combined, washed with brine, dried over Na2SO4 and concentrated. The residue was purified by a silica gel column (pet. ether/ethyl acetate=4/1) to give 2 g (45%) of tert-butyl ethyl(1-hydroxy-2-methylpropan-2-yl)carbamate as a colorless oil.

reactant | LiAlH4 | 20 mmol, 760 mg, 1.0 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-(tert-butoxycarbonyl(ethyl)amino)-2-methylpropanoate | 20 mmol, 5.18 g, 1 equiv | C(C)(C)(C)OC(=O)N(C(C(=O)OCC)(C)C)CC | C13H25NO4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl ethyl(1-hydroxy-2-methylpropan-2-yl)carbamate | 2 g, 45% | C(C)N(C(OC(C)(C)C)=O)C(CO)(C)C | C11H23NO3
